US05994563
As shown in Scheme 3, 5-Nitro-2-thiophenecarboxaldehyde and 5-nitro-3-thiophene-carboxaldehyde, carboxaldehyde, each of which are commercially available, can be reacted with tris(trimethylsilyl)phosphite to give XII. Thiophene-2-carboxaldehyde is nitrated in sulfuric acid with potassium nitrate to give 4-nitrothiophene-2-carboxaldehyde which in turn is reacted with diethylphosphite on basic alumina and allowed to stand for 2-20 hours. Extraction of the product with methylene chloride gives XV. Treatment of XV with 5-8 equivalents of bromotrimethylsilane in methylene chloride (50-100 mL) gives compound XVI.

reactant | Thiophene-2-carboxaldehyde | S1C(=CC=C1)C=O | C5H4OS
reactant | potassium nitrate | [N+](=O)([O-])[O-].[K+]
solvent | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 4-nitrothiophene-2-carboxaldehyde | [N+](=O)([O-])C=1C=C(SC1)C=O | C5H3NO3S
